US04024134
A solution of 2-dichloroacetoxyimino-2-(thien-2-yl)acetyl chloride (0.585 g.) in ethyl acetate (5 ml.) was added to a stirred suspension of diphenylmethyl 7β -amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylate (1 g.) in ethyl acetate (10 ml.) and propylene oxide (1 ml.) at 20°. After 30 minutes all the solid had dissolved. The solution was washed with 2N-hydrochloric acid, saturated sodium bicarbonate solution, water and brine, dried and concentrated to give crude diphenylmethyl 7β-[2-dichloroacetoxyimino-2-(thien-2-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylate (syn-isomer) as a solvated foam (1.567 g.) λmax. (EtOH)267.5 nm (e11 240), τ values (CDCl3) include 3.00 (singlet, -CHPh2), 3.75 (singlet; CHCl2) and 7.35 (singlet; CH3).

reactant | 2-dichloroacetoxyimino-2-(thien-2-yl)acetyl chloride | 0.585 g | ClC(C(=O)ON=C(C(=O)Cl)C=1SC=CC1)Cl | C8H4Cl3NO3S
reactant | diphenylmethyl 7β -amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylate | 1 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H22N4O3S3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | propylene oxide | 1 ml | C1C(C)O1 | C3H6O
product | diphenylmethyl 7β-[2-dichloroacetoxyimino-2-(thien-2-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethylceph-3-em-4-carboxylate | ClC(C(=O)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1SC=CC1)Cl | C32H25Cl2N5O6S4
